Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])=[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])[H:12].[H:1][C:2]#[C:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-1.47140748474
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],-4.6700777135
[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-3.0975880729900003
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.294878317389
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],4.93147573142
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:4],1.92993965804
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.75027790282
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.15334586857
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.00788068683
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.44008909539
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C@@:3]([H:4])([O:5])[C:12]([H:13])([H:14])[H:15],4.72416777315
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11],-1.11077797969
[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.31229677884
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-3.70818356809
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.4331302198
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.62127358723
[O:1]=[C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2][C:10]([C:7]([C:4]([C:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12],3.38160759276
[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-4.05482845323
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.39505557991
[H:1][C:2]([H:3])=[C:4]([H:5])[C:11]([O:10][C:7]([O:6])([H:8])[H:9])([H:12])[H:13]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],-0.7197997541410001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7],5.73770843524
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1][C:2][O:3].[C:4]([H:5])#[C:6][O:7],0.76999237522
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[O:13][H:14].[H:5],1.63363877432
[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.97209962635
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.22293758764
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.33705257399
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.5465266066300005
